US06897224B2
4-(4-Chloro-2-hydroxyphenyl)-1-(2-(hydroxymethyl)quinolin-5-ylamino)-4-methyl-2-(trifluoromethyl)pentan-2-ol
Analogously to Example 38, 110 mg (0.23 mmol) of 4-(4-chloro-2-methoxyphenyl)-1-(2-(hydroxymethyl)quinolin-5-ylamino)-4-methyl-2-(trifluoromethyl)pentan-2-ol is reacted with 4.60 ml (4.60 mmol) of a 1 M boron tribromide solution. After working-up and purification on silica gel with hexane-ethyl acetate (0-100%) as well as with ethyl acetate-methanol (0-20%), 54 mg (50% of theory) of the product is obtained.

reactant | 4-(4-chloro-2-methoxyphenyl)-1-(2-(hydroxymethyl)quinolin-5-ylamino)-4-methyl-2-(trifluoromethyl)pentan-2-ol | 0.23 mmol, 110 mg | ClC1=CC(=C(C=C1)C(CC(CNC1=C2C=CC(=NC2=CC=C1)CO)(O)C(F)(F)F)(C)C)OC | C24H26ClF3N2O3
reactant | boron tribromide | 1 M | B(Br)(Br)Br | BBr3
product | 4-(4-Chloro-2-hydroxyphenyl)-1-(2-(hydroxymethyl)quinolin-5-ylamino)-4-methyl-2-(trifluoromethyl)pentan-2-ol | ClC1=CC(=C(C=C1)C(CC(CNC1=C2C=CC(=NC2=CC=C1)CO)(O)C(F)(F)F)(C)C)O | C23H24ClF3N2O3
